US07977344B2
8-(Methoxy)-2-{[2-(methyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
8-(Methoxy)-2-{[2-(methoxy)ethyl]oxy}-9H-purin-6-amine trifluoroacetate salt (0.30 g) was heated with anhydrous potassium carbonate (0.4698 g) in anhydrous DMF (5 mL) at 60° C. for 1 hour. The reaction mixture was cooled to room temperature before 4-(bromomethyl) tetrahydro-2H-pyran (0.1669 g) was added in anhydrous DMF (1 mL). The reaction mixture was then stirred overnight at 50° C. The reaction mixture was quenched into water (20 mL) and extracted into ethyl acetate (20 mL, 3 times).

reactant | 8-(Methoxy)-2-{[2-(methoxy)ethyl]oxy}-9H-purin-6-amine trifluoroacetate salt | 0.30 g | FC(C(=O)O)(F)F.COC=1NC2=NC(=NC(=C2N1)N)OCCOC
reactant | potassium carbonate | 0.4698 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl) tetrahydro-2H-pyran | 0.1669 g | BrCC1CCOCC1 | C6H11BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 8-(Methoxy)-2-{[2-(methyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | COC=1N(C2=NC(=NC(=C2N1)N)OCCOC)CC1CCOCC1 | C15H23N5O4
